US09107916B2
A. 2-(5-Hydroxy-3-methyl-4-phenyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile
The title compound was prepared in 29% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and 3-oxo-2-phenyl-butyric acid ethyl ester according to the procedure for the preparation of Example 3, part A. [M+H] Calc'd for C16H12N4O, 277. Found, 277.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | 3-oxo-2-phenyl-butyric acid ethyl ester | C(C)OC(C(C(C)=O)C1=CC=CC=C1)=O | C12H14O3
product | 2-(5-Hydroxy-3-methyl-4-phenyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 29% yield | OC1=C(C(=NN1C1=NC=CC(=C1)C#N)C)C1=CC=CC=C1 | C16H12N4O
